### PR TITLE
feat(Automata): Regular languages are closed under reversal. 

### PR DESCRIPTION
**Pull request by Lsonic233**
Proves that A^R = {w^R | w ∈ A} is regular if A is regular, i.e regular languages are closed under reversal. The proof takes the NFA for A and constructs a new NFA by swapping the accept and start states and reversing all the transition arrows. 

`Reverse.lean` defines the reversal of a `FinAcc` and proves that it accepts the reverse of the language accepted by the original automaton. The Language reversal is defined in mathlib. 

Added a theorem `IsRegular.reverse` in `RegularLanguage.lean` to prove that regular languages are closed under reversal. 

AI Usage : I wrote down all the theorem statements and initial proofs with minimal. I then used claude to rewrite proofs for style compliance.

### CODE REVIEW

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 1]
```diff
@@ -206,6 +207,14 @@ theorem IsRegular.char (a : Symbol) : ({[a]} : Language Symbol).IsRegular := by
     · induction xs using List.reverseRec <;> grind
     · simp_all [flts, List.append_eq_cons_iff]
 
+open NA in
+/-- The reversal of a regular language is regular. -/
+@[simp]
+theorem IsRegular.reverse {l : Language Symbol} (h : l.IsRegular) : (l.reverse).IsRegular := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean]: can you add the theorem  `(l.reverse).IsRegular \iff l.IsRegular` as well?

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 2]
```diff
@@ -0,0 +1,62 @@
...
+  accept := na.start
+
+/-- Reversing an automaton twice gives back the original automaton. -/
+@[simp]
+theorem FinAcc.reverse_reverse (na : FinAcc State Symbol) : na.reverse.reverse = na := rfl
+
+/-- The multistep transitions of `na.reverse` are exactly the reversed multistep transitions
+of `na`. -/
+theorem reverse_mtr (na : FinAcc State Symbol) {xs : List Symbol} {s s' : State}
+    (hmtr : na.MTr s xs.reverse s') : na.reverse.MTr s' xs s := by
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]: I would claim that the "are exactly" docstring is describing the `iff` statement, but the proof only has the implication. I would guess you can directly prove the `iff` here without needing much change to the proof?

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 3]
```diff
@@ -0,0 +1,62 @@
...
+  | cons x xs ih =>
+    simp only [List.reverse_cons] at hmtr
+    simp only [LTS.MTr.cons_iff]
+    obtain ⟨mid, h1, h2⟩ := LTS.MTr.split hmtr
+    simp only [LTS.MTr.singleton_iff] at h2
+    exact ⟨mid, h2, ih h1⟩
+
+/-- `na.reverse` accepts exactly the reversals of the words accepted by `na`. -/
+theorem reverse_language_eq (na : FinAcc State Symbol) :
+    language (na.reverse) = (language na).reverse := by
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]: This should be in the `FinAcc` namespace, since it is about `FinAcc.reverse`

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 4]
```diff
@@ -0,0 +1,62 @@
...
+    simp_all
+  | cons x xs ih =>
+    simp only [List.reverse_cons] at hmtr
+    simp only [LTS.MTr.cons_iff]
+    obtain ⟨mid, h1, h2⟩ := LTS.MTr.split hmtr
+    simp only [LTS.MTr.singleton_iff] at h2
+    exact ⟨mid, h2, ih h1⟩
+
+/-- `na.reverse` accepts exactly the reversals of the words accepted by `na`. -/
+theorem reverse_language_eq (na : FinAcc State Symbol) :
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean:54]: Could you add the theorem for `Accepts` too?

File: Cslib/Computability/Automata/NA/Reverse.lean (hunk 2 above)
Comment (Lsonic233) [reply Cslib/Computability/Automata/NA/Reverse.lean]: Makes sense, updated with iff in the latest push.

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 5]
```diff
@@ -0,0 +1,62 @@
...
+open Acceptor Language
+
+variable {Symbol State : Type*}
+
+/-- `na.reverse` reverses every transition of `na` and swaps its start and accept states,
+so that it accepts exactly the reversals of the words accepted by `na`. -/
+def FinAcc.reverse (na : FinAcc State Symbol) : FinAcc State Symbol where
+  Tr s x t := na.Tr t x s
+  start := na.accept
+  accept := na.start
```
Comment (ctchou) [inline Cslib/Computability/Automata/NA/Reverse.lean:29]: I think it is more elegant, and potentially more useful in the future, to define the `reverse` operation on LTS, prove properties like `reverse_mtr` below on LTS, and then have NA inherit and use those operations and properties.

**Review by ctchou — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+    simp only [Accepts] at h ⊢
+    obtain ⟨s, hs, s', hs', hmtr⟩ := h
+    exact ⟨s', hs', s, hs, (reverse_mtr_iff na).mp hmtr⟩
+  · intro h_na
+    simp only [Accepts] at h_na ⊢
+    obtain ⟨s, hs, s', hs', hmtr⟩ := h_na
+    exact ⟨s', hs', s, hs, (reverse_mtr_iff na).mpr hmtr⟩
+
+/-- `na.reverse` accepts a word iff `na` accepts its reversal. -/
+theorem reverse_na_accepts (na : FinAcc State Symbol) (xs : List Symbol) :
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]:
```suggestion
@[simp]
theorem accepts_reverse {na : FinAcc State Symbol} {xs : List Symbol} :
```

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 7]
```diff
@@ -0,0 +1,75 @@
...
+      obtain ⟨mid, h1, h2⟩ := hmtr
+      exact LTS.MTr.stepR na.toLTS (ih.mp h2) h1
+    · intro hmtr
+      obtain ⟨mid, h1, h2⟩ := LTS.MTr.split hmtr
+      simp only [LTS.MTr.singleton_iff] at h2
+      exact ⟨mid, h2, ih.mpr h1⟩
+
+/-- `na.reverse` accepts exactly the reversals of the words accepted by `na`. -/
+theorem reverse_language_eq (na : FinAcc State Symbol) :
+    language (na.reverse) = (language na).reverse := by
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]:
```suggestion
    language na.reverse = (language na).reverse := by
```

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 8]
```diff
@@ -0,0 +1,75 @@
...
+    na.reverse.MTr s' xs s ↔ na.MTr s xs.reverse s' := by
+  induction xs generalizing s s' with
+  | nil =>
+    simp_all [eq_comm]
+  | cons x xs ih =>
+    simp only [List.reverse_cons]
+    simp only [LTS.MTr.cons_iff]
+    constructor
+    · intro hmtr
+      obtain ⟨mid, h1, h2⟩ := hmtr
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]:
```suggestion
    · rintro ⟨mid, h1, h2⟩
```

File: Cslib/Computability/Automata/NA/Reverse.lean (hunk 5 above)
Comment (Lsonic233) [reply Cslib/Computability/Automata/NA/Reverse.lean:29]: This makes sense - made the changes in the latest push . Added a new `Reverse.lean` file in `LTS` dir which proves `reverse_mTr`. Now `FinAcc.reverse` inherits from LTS.

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 9]
```diff
@@ -0,0 +1,53 @@
...
+  | cons x xs ih =>
+    simp only [List.reverse_cons, LTS.MTr.cons_iff]
+    constructor
+    · rintro ⟨mid, h1, h2⟩
+      exact LTS.MTr.stepR lts (ih.mp h2) h1
+    · intro hmtr
+      obtain ⟨mid, h1, h2⟩ := LTS.MTr.split hmtr
+      simp only [LTS.MTr.singleton_iff] at h2
+      exact ⟨mid, h2, ih.mpr h1⟩
+
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean:109]: Can you add the result about `CanReach` too?

Comment (eric-wieser) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean:109]: Generally it would be good to write a theorem about every `def` in `Cslib/Foundations/Semantics/LTS/Basic.lean`, assuming there is something true to state!

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 10]
```diff
@@ -206,6 +207,22 @@ theorem IsRegular.char (a : Symbol) : ({[a]} : Language Symbol).IsRegular := by
     · induction xs using List.reverseRec <;> grind
     · simp_all [flts, List.append_eq_cons_iff]
 
+open NA in
+/-- The reversal of a regular language is regular. -/
+@[simp]
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
```
since I would guess the below theorem covers it

File: Cslib/Foundations/Semantics/LTS/Reverse.lean (hunk 9 above)
Comment (Lsonic233) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean:109]: Will do. Would this be an exhaustive list of theorems to prove? 
`CanReach` 
`UnlabelledTr` -  this relation gets flipped
`image` - image of a state in reverse is the preimage in original
`imageMultistep ` - same as above
`HasOutLabel` - outgoing labels in the reverse are its incoming labels in the original.
`BoundedUpTo`  - reversal preserves this

Comment (eric-wieser) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean:109]: Those all sound great!

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 11]
```diff
@@ -0,0 +1,53 @@
...
+    simp_all [eq_comm]
+  | cons x xs ih =>
+    simp only [List.reverse_cons, LTS.MTr.cons_iff]
+    constructor
+    · rintro ⟨mid, h1, h2⟩
+      exact LTS.MTr.stepR lts (ih.mp h2) h1
+    · intro hmtr
+      obtain ⟨mid, h1, h2⟩ := LTS.MTr.split hmtr
+      simp only [LTS.MTr.singleton_iff] at h2
+      exact ⟨mid, h2, ih.mpr h1⟩
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean]:
```suggestion
  induction μs generalizing s s' with
  | nil =>
    simp [eq_comm]
  | cons x xs ih =>
    simp_rw [List.reverse_cons, MTr.append_iff, MTr.singleton_iff, MTr.cons_iff, and_comm, ih,
      reverse_tr]
```

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 12]
```diff
@@ -0,0 +1,64 @@
...
+  · intro h_na
+    simp only [Accepts] at h_na ⊢
+    obtain ⟨s, hs, s', hs', hmtr⟩ := h_na
+    exact ⟨s', hs', s, hs, (reverse_mTr na).mpr hmtr⟩
+
+/-- `na.reverse` accepts a word iff `na` accepts its reversal. -/
+@[simp]
+theorem accepts_reverse {na : FinAcc State Symbol} {xs : List Symbol} :
+    Accepts na.reverse xs ↔ Accepts na xs.reverse := by
+  exact Set.ext_iff.mp (reverse_language_eq na) xs
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]: Note that the goal is already this on line 45; you should prove this before the `language` lemma not after.

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 13]
```diff
@@ -0,0 +1,64 @@
...
+  simp only [mem_language, mem_reverse]
+  constructor
+  · intro h
+    simp only [Accepts] at h ⊢
+    obtain ⟨s, hs, s', hs', hmtr⟩ := h
+    exact ⟨s', hs', s, hs, (reverse_mTr na).mp hmtr⟩
+  · intro h_na
+    simp only [Accepts] at h_na ⊢
+    obtain ⟨s, hs, s', hs', hmtr⟩ := h_na
+    exact ⟨s', hs', s, hs, (reverse_mTr na).mpr hmtr⟩
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]: Do you need to do constructor here, or does `simp_rw [reverse_mTr]` do most of what you need?

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 14]
```diff
@@ -206,6 +207,22 @@ theorem IsRegular.char (a : Symbol) : ({[a]} : Language Symbol).IsRegular := by
     · induction xs using List.reverseRec <;> grind
     · simp_all [flts, List.append_eq_cons_iff]
```
Comment (ctchou) [inline Cslib/Computability/Languages/RegularLanguage.lean:223]: Please move the theorem `IsRegular.char` to be directly above `IsRegular.regex`.  They should be kept together.

File: Cslib/Foundations/Semantics/LTS/Reverse.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean:109]: While you are at it, could you also add a corresponding theorem for `LTS.Execution`?  I hope that doesn't require too much work.

**Review by ctchou — CHANGES_REQUESTED** [review]

File: Cslib/Foundations/Semantics/LTS/Reverse.lean (hunk 9 above)
Comment (Lsonic233) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean:109]: Wrote up proofs for the theorems stated above - please let me know if there is anything to be added. 
For `LTS.Execution` I wrote down a long and not so reader friendly proof - claude helped use more automation and make it compact.

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 15]
```diff
@@ -0,0 +1,118 @@
+/-
+Copyright (c) 2026 Vignesh Karri. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Vignesh Karri
+-/
+
+module
+
+public import Cslib.Foundations.Semantics.LTS.Basic
```
Comment (ctchou) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean]: This import can be removed because the next one covers it.

**Review by ctchou — CHANGES_REQUESTED** [review]
Except for the minor `import` issue, I think this PR is ready for merge.

File: Cslib/Foundations/Semantics/LTS/Reverse.lean (hunk 15 above)
Comment (Lsonic233) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean]: Done. Side note - [CI is down ](https://www.githubstatus.com/)

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 16]
```diff
@@ -190,6 +191,21 @@ theorem IsRegular.congr_fin_index {Symbol : Type}
...
+open NA in
+/-- The reversal of a regular language is regular. -/
+theorem IsRegular.reverse {l : Language Symbol} (h : l.IsRegular) : (l.reverse).IsRegular := by
+  rw [IsRegular.iff_nfa] at h ⊢
+  obtain ⟨State, h_fin, nfa, rfl⟩ := h
+  use State, inferInstance, nfa.reverse, FinAcc.reverse_language_eq nfa
+
+/-- A language is regular iff its reversal is regular. -/
+@[simp]
+theorem IsRegular.reverse_iff {l : Language Symbol} : (l.reverse).IsRegular ↔ l.IsRegular := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
theorem IsRegular.reverse_iff {l : Language Symbol} : l.reverse.IsRegular ↔ l.IsRegular := by
```

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 17]
```diff
@@ -190,6 +191,21 @@ theorem IsRegular.congr_fin_index {Symbol : Type}
   use Quotient c.eq, inferInstance, ⟨c.toDA, {a}⟩
   exact DA.FinAcc.congr_language_eq
 
+open NA in
+/-- The reversal of a regular language is regular. -/
+theorem IsRegular.reverse {l : Language Symbol} (h : l.IsRegular) : (l.reverse).IsRegular := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
theorem IsRegular.reverse {l : Language Symbol} (h : l.IsRegular) : l.reverse.IsRegular := by
```

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 18]
```diff
@@ -0,0 +1,117 @@
...
+  Tr s μ s' := lts.Tr s' μ s
+
+/-- The transitions of `lts.reverse` are exactly the reversed transitions of `lts`. -/
+@[simp]
+theorem reverse_tr {lts : LTS State Label} :
+    (lts.reverse).Tr s μ s' ↔ lts.Tr s' μ s := by rfl
+
+/-- Reversing an LTS twice gives back the original LTS. -/
+@[simp]
+theorem reverse_reverse (lts : LTS State Label) : lts.reverse.reverse = lts := rfl
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean:34]: For good measure:
```suggestion
theorem reverse_involutive : Function.Involutive (reverse (Symbol := Symbol) (State := State)) :=
  reverse_reverse
```

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 19]
```diff
@@ -0,0 +1,56 @@
...
+
+/-! # Reversal of nondeterministic automata. -/
+
+@[expose] public section
+
+namespace Cslib.Automata.NA
+
+open Acceptor Language
+
+variable {Symbol State : Type*}
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]:
```suggestion
variable {State Symbol : Type*}
```
to match the order of arguments to `FinAcc`

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 20]
```diff
@@ -0,0 +1,117 @@
...
+public import Cslib.Foundations.Semantics.LTS.Execution
+
+/-!
+# Reverse operation for LTS.
+-/
+
+@[expose] public section
+
+namespace Cslib.LTS
+
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean:18]: nit:
```suggestion
variable {State Symbol : Type*}

```

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 21]
```diff
@@ -190,6 +191,21 @@ theorem IsRegular.congr_fin_index {Symbol : Type}
...
+  obtain ⟨State, h_fin, nfa, rfl⟩ := h
+  use State, inferInstance, nfa.reverse, FinAcc.reverse_language_eq nfa
+
+/-- A language is regular iff its reversal is regular. -/
+@[simp]
+theorem IsRegular.reverse_iff {l : Language Symbol} : (l.reverse).IsRegular ↔ l.IsRegular := by
+  constructor
+  · intro h
+    simpa using IsRegular.reverse h
+  · exact IsRegular.reverse
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/RegularLanguage.lean:207]: Optional:
```suggestion
open NA in
/-- A language is regular iff its reversal is regular. -/
@[simp]
theorem IsRegular.reverse_iff {l : Language Symbol} : l.reverse.IsRegular ↔ l.IsRegular := by
  simp_rw [IsRegular.iff_nfa]
  congr! 4
  rw [FinAcc.reverse_involutive.surjective.exists]
  simp [FinAcc.reverse_language_eq, Language.reverse_injective.eq_iff]

alias ⟨_, IsRegular.reverse⟩ := IsRegular.reverse_iff
```

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 22]
```diff
@@ -0,0 +1,56 @@
...
+
+/-- `na.reverse` accepts a word iff `na` accepts its reversal. -/
+@[simp]
+theorem accepts_reverse {na : FinAcc State Symbol} {xs : List Symbol} :
+    Accepts na.reverse xs ↔ Accepts na xs.reverse := by
+  simp only [Accepts, reverse_mTr]
+  aesop
+
+/-- `na.reverse` accepts exactly the reversals of the words accepted by `na`. -/
+theorem reverse_language_eq (na : FinAcc State Symbol) :
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean:54]:
```suggestion
@[simp]
theorem reverse_language_eq (na : FinAcc State Symbol) :
```

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 23]
```diff
@@ -0,0 +1,117 @@
...
+/-- `lts.reverse` can reach `s'` from `s` iff `lts` can reach `s` from `s'`. -/
+@[simp]
+theorem reverse_canReach {lts : LTS State Label} :
+    lts.reverse.CanReach s s' ↔ lts.CanReach s' s := by
+  simp only [CanReach, reverse_mTr]
+  constructor
+  · rintro ⟨μs, h⟩
+    exact ⟨_, h⟩
+  · rintro ⟨μs, h⟩
+    exact ⟨μs.reverse, by simpa using h⟩
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean]:
```suggestion
  simp only [CanReach, reverse_mTr]
  conv_rhs => rw [List.reverse_involutive.surjective.exists]
```
also works

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 24]
```diff
@@ -0,0 +1,117 @@
...
+  induction μs generalizing s s' ss with
+  | nil => grind
+  | cons μ μs ih =>
+    cases ss with
+    | nil => grind
+    | cons t ts =>
+      obtain rfl : s = t := by grind
+      have htr : lts.Tr s μ (ts[0]'(by grind)) := by grind
+      simpa using Execution.comp (ih (Execution.cons_invert h))
+        (Execution.stepL htr (Execution.refl lts.reverse s))
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean]: Does an induction principle like this help?
```lean
/-- For a known end state `s'`, we can induct by prepending one transition at a time. -/
@[elab_as_elim]
theorem Execution.cons_induction {s'} {motive : ∀ (s μs ss), lts.Execution s μs s' ss → Prop}
    (hrefl : ∀ h : lts.Execution s' [] s' [s'], motive _ _ _ h)
    (hcons : ∀ s μ smid μs ss (ht : lts.Tr s μ smid) (h : lts.Execution smid μs s' ss),
      motive _ _ _ h → motive _ _ _ (h.stepL ht))
    {s μs ss} (hx : lts.Execution s μs s' ss) :
    motive _ _ _ hx := by
  induction μs generalizing s ss with
  | nil =>
    cases ss <;> grind
  | cons μ μs ih =>
    cases ss with
    | nil => grind
    | cons t ts =>
      obtain rfl : s = t := by grind
      specialize ih hx.cons_invert
      refine hcons _ _ _ _ _ ?_ _ ih
      obtain ⟨hl, -, -, hx⟩ := hx
      apply hx 0
      grind
```

Comment (Lsonic233) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean]: This is my first time learning about recursors/eliminators so I think this idea requires more eyes than just me.  I think it helps gives us inductive Prop style proofs for Execution (it is a def Prop). Heres how reverse execution and Execution.of_mTr would look like :

```lean4
theorem Execution.to_mTr' {s' : State} {μs ss} (hx : lts.Execution s μs s' ss) :
lts.MTr s μs s' := by
induction hx using Execution.cons_induction with
| hrefl _ => exact MTr.refl
| hcons s μ smid μs ss ht h ih => exact MTr.stepL ht ih


theorem Execution.reverse' {lts : LTS State Label} {s s' : State} {μs ss}
(h : lts.Execution s μs s' ss) :
lts.reverse.Execution s' μs.reverse s ss.reverse := by
induction h using Execution.cons_induction with
| hrefl _ => grind
| hcons s μ smid μs ss ht h ih =>
simpa using Execution.comp ih (Execution.stepL ht (Execution.refl lts.reverse s))
```

File: Cslib/Foundations/Semantics/LTS/Reverse.lean (hunk 18 above)
Comment (Lsonic233) [reply Cslib/Foundations/Semantics/LTS/Reverse.lean:34]: Added this in `LTS/Reverse.lean` and the same (but with Symbol instead of Label) in `NA/Reverse.lean`. 
```lean4
/-- Reversal of an LTS is an involution. -/
theorem reverse_involutive : Function.Involutive (reverse (Label := Label) (State := State)) :=
  reverse_reverse
  ```

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 21 above)
Comment (Lsonic233) [reply Cslib/Computability/Languages/RegularLanguage.lean:207]: Your proof looks better - we could replace the `congr! 4` line with `refine exists₂_congr fun State _ => ?_`. 
Also the previous proof follows the same pattern that all other closure proofs follow (reversal stands out because its the only iff theorem of the closure ones). Would you recommend switching it out for this?

**Review by ctchou — CHANGES_REQUESTED** [review]

**Review by ctchou — COMMENTED** [review]
See my comment on `Execution.reverse`.

**Review by ctchou — COMMENTED** [review]
Actually `Execution.reverse` can be proved in two lines using `grind`:
```
  use by grind
  grind [reverse_tr]
```
Note that the definition of `LTS.Execution` consists of a universally quantified statement over successive pairs of states in `ss` plus some boundary conditions, which are the sort of things that `grind` is very good at using and proving. There are enough facts about `List.reverse` already in mathlib that you don't even need to think about them.

**Comment by chenson2018** [comment]
> See my comment on `Execution.reverse`.

I'm not following this PR closely, but this suggestion of `use by grind` seems like a very odd style to me.

**Comment by ctchou** [comment]
What is a better solution?  A single `grind [reverse_tr]` didn't work.  The goal has the following form:
```
  ∃ _ : ss.length = μs.length + 1, ss[0] = s1 ∧ ss[ss.length - 1] = s2 ∧
  ∀ k, {_ : k < μs.length} → lts.Tr ss[k] μs[k] ss[k + 1]
```

**Comment by ctchou** [comment]
@chenson2018  Do you want to add anything concerning the proof of `Execution.reverse` which you are not very happy about?  Personally I think this PR is ready to merge.

**Review by ctchou — APPROVED** [review]
LGTM now.

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 25]
```diff
@@ -0,0 +1,61 @@
...
+    Accepts na.reverse xs ↔ Accepts na xs.reverse := by
+  simp only [Accepts, reverse_mTr]
+  aesop
+
+/-- `na.reverse` accepts exactly the reversals of the words accepted by `na`. -/
+@[simp]
+theorem reverse_language_eq (na : FinAcc State Symbol) :
+    language na.reverse = (language na).reverse := by
+  ext xs
+  simp only [mem_language, mem_reverse, accepts_reverse]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NA/Reverse.lean:57]: Terminal `simp` should not be squeezed

```suggestion
  ext; simp
```

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 26]
```diff
@@ -0,0 +1,61 @@
...
+@[simp]
+theorem reverse_mTr (na : FinAcc State Symbol) {xs : List Symbol} {s s' : State} :
+    na.reverse.MTr s' xs s ↔ na.MTr s xs.reverse s' := LTS.reverse_mTr
+
+/-- `na.reverse` accepts a word iff `na` accepts its reversal. -/
+@[simp]
+theorem accepts_reverse {na : FinAcc State Symbol} {xs : List Symbol} :
+    Accepts na.reverse xs ↔ Accepts na xs.reverse := by
+  simp only [Accepts, reverse_mTr]
+  aesop
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NA/Reverse.lean:50]: We typically have tried to standardize on using `grind` over `aesop`. I note that

```suggestion
  have : na.reverse.start = na.accept := rfl
  have : na.reverse.accept = na.start := rfl
  grind [Accepts, reverse_mTr]
```
works. Should the `have` here be lemmas?

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 27]
```diff
@@ -0,0 +1,111 @@
...
+theorem reverse_boundedUpTo {lts : LTS State Label} {n : ℕ} :
+    lts.reverse.BoundedUpTo n ↔ lts.BoundedUpTo n := by
+  constructor <;> intro h s₁ μs s₂ hmtr <;> simpa using h s₂ μs.reverse s₁ (by simpa using hmtr)
+
+/-- Reversing an execution of `lts` gives an execution of `lts.reverse`, with the labels, states
+and endpoints reversed. -/
+theorem Execution.reverse {lts : LTS State Label} (h : lts.Execution s μs s' ss) :
+    lts.reverse.Execution s' μs.reverse s ss.reverse := by
+  use by grind
+  grind [reverse_tr]
```
Comment (chenson2018) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean]: Both uses of `grind` here are fragile in that `grind?` fails. (And for whatever reason `linter.tacticAnalysis.verifyGrindOnly` won't detect it, which is troubling). If you can turn these into a `grind only` that works that is fine, otherwise this becomes painful for maintenance.

(@ctchou I suppose I don't have a problem with `use` here looking at the signature. I had thought previously this would be nicer if `Execution` were a structure but had trouble with this refactor. If you ever feel like trying this out yourself please feel free.)

**Comment by ctchou** [comment]
In view of @chenson2018 's comment above, I just pushed a patch that replaced the first `grind` by `simpa` and the second by `grind only [...]`.  It seems that explicitly unpacking the hypothesis `h` helped `grind?` find a `grind only` that actually works.

File: Cslib/Computability/Automata/NA/Reverse.lean (hunk 26 above)
Comment (Lsonic233) [reply Cslib/Computability/Automata/NA/Reverse.lean]: Yeah - I added them as lemmas.

File: Cslib/Foundations/Semantics/LTS/Reverse.lean [hunk 28]
```diff
@@ -0,0 +1,112 @@
...
+  obtain ⟨_, _, _, _⟩ := h
+  use by simpa
+  grind only [reverse_tr, = List.getElem_reverse, = List.length_reverse]
+
+/-- An execution of `lts.reverse` is an execution of `lts` with the labels, states
+and endpoints reversed. -/
+@[simp]
+theorem reverse_execution {lts : LTS State Label} :
+    lts.reverse.Execution s μs s' ss ↔ lts.Execution s' μs.reverse s ss.reverse :=
+  ⟨fun h => by simpa using h.reverse, fun h => by simpa using h.reverse⟩
```
Comment (eric-wieser) [inline Cslib/Foundations/Semantics/LTS/Reverse.lean]:
```suggestion
  ⟨fun h => h.reverse, fun h => by simpa using h.reverse⟩
```

**Comment by ctchou** [comment]
Hi @eric-wieser and @chenson2018  Have all your concerns been addressed in this PR?  It seems to me ready to merge.  Thanks in advance!

File: Cslib/Computability/Automata/NA/Reverse.lean [hunk 29]
```diff
@@ -0,0 +1,67 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Vignesh Karri
+-/
+
+module
+
+public import Cslib.Computability.Automata.NA.Basic
+public import Cslib.Foundations.Semantics.LTS.Reverse
+
+/-! # Reversal of nondeterministic automata. -/
```
Comment (eric-wieser) [inline Cslib/Computability/Automata/NA/Reverse.lean]: Perhaps this should have a few sentences noting that this defines `Cslib.Automata.NA.FinAcc.reverse`, and that `reverse_language_eq ` proves that the language accepted by this automata is the `Language.reverse` of the one accepted by the original.

In general, it's handy for module docstring to call out the key results.

Same for the other files.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 21 above)
Comment (eric-wieser) [reply Cslib/Computability/Languages/RegularLanguage.lean:207]: I don't think it matters much!

**Review by eric-wieser — APPROVED** [review]
Just minor documentation nits; otherwise this now looks great!

File: Cslib/Computability/Automata/NA/Reverse.lean (hunk 29 above)
Comment (Lsonic233) [reply Cslib/Computability/Automata/NA/Reverse.lean]: Addressed - for NA/Reverse.lean and LTS/Reverse.lean.

**Review by chenson2018 — APPROVED** [review]
It looks like Eric's last comments were addressed. Thanks for the contribution!

**Comment by Lsonic233** [comment]
Thanks everyone!
